US07888364B2
75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 125 mg of 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methyl)benzoic acid via Procedure G. The crude product was treated with 4N HCl in Dioxane, evaporated and purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(piperidin-4-ylmethyl)benzamide. MS (Q1) 406.1 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-((1-(tert-butoxycarbonyl)piperidin-4-yl)methyl)benzoic acid | 125 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C(=O)O)C=C1 | C18H25NO4
reactant | HCl | 4N | Cl | ClH
solvent | Dioxane | O1CCOCC1 | C4H8O2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(piperidin-4-ylmethyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CC1CCNCC1)=O)C1=NC=CC=C1 | C24H24ClN3O
